US07410966B2
N-Benzyl-N-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]amine
The title compound was prepared from 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)aniline (0.289 g, 1 mmol) and benzaldehyde (0.106 g, 1 mmol).

reactant | 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)aniline | 1 mmol, 0.289 g | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(N)C=C2 | C12H9BrN4
reactant | benzaldehyde | 1 mmol, 0.106 g | C(C1=CC=CC=C1)=O | C7H6O
product | N-Benzyl-N-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]amine | C(C1=CC=CC=C1)NC1=CC=C(C=C1)C1=NC=2C(=NC=C(C2)Br)N1 | C19H15BrN4
